US05952499
I. [[(2,4-Diamino-6-Pteridinyl)Methyl]Methyl Amino] Benzoic Acid
The title compound was prepared by carboxypeptidase G cleavage of glutamic acid from methotrexate as described in the literature (J. Med. Chem. 24, 1450-1455 (1981)). The yield of I obtained was virtually quantitative.

reactant | glutamic acid | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
reactant | methotrexate | CN(CC=1C=NC2=C(N1)C(=NC(=N2)N)N)C=3C=CC(=CC3)C(=O)N[C@@H](CCC(=O)O)C(=O)O | C20H22N8O5
product | [[(2,4-Diamino-6-Pteridinyl)Methyl]Methyl Amino] Benzoic Acid | NC1=NC2=NC=C(N=C2C(=N1)N)CN(C)C1=C(C(=O)O)C=CC=C1 | C15H15N7O2
